US06001839
This Example was carried out in a similar manner to Example 2. 2-Bromo-4'-phenylacetophenone (25.0 g) in acetonitrile (150 ml) was reacted with tert-butylamine (28.4 ml) to give 4'-phenyl-2-(tert-butylamino)acetophenone hydrobromide (5.31 g) m.p. 234-237° C. (with decomposition). This compound was reacted with malononitrile (1.7 g) and potassium hydroxide (3.0 g) in water (4 ml) in methanol (100 ml) under nitrogen to give 2-amino-4-(4-biphenylyl)-3-cyano-1-(tert-butyl)pyrrole (3.75 g) which was suspended in formamide (200 ml) saturated with ammonia and then the mixture was heated at 200-205° C. for two hours whilst ammonia was being passed through the mixture. After cooling the mixture was added to ice-water (600 g) under nitrogen and the solid collected by filtration, purified by flash column chromatography on silica using ethyl acetate/triethylamine (19:1) as the mobile phase to give 5-(4-biphenylyl)-7-tert-butyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine, m.p. 212-214° C.

reactant | 2-Bromo-4'-phenylacetophenone | 25.0 g | BrCC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C14H11BrO
reactant | tert-butylamine | 28.4 ml | C(C)(C)(C)N | C4H11N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 4'-phenyl-2-(tert-butylamino)acetophenone hydrobromide | 5.31 g | Br.C1(=CC=CC=C1)C1=CC=C(C=C1)C(CNC(C)(C)C)=O | InChI=1S/C18H21NO.BrH/c1-18(2,3)19-13-17(20)16-11-9-15(10-12-16)14-7-5-4-6-8-14;/h4-12,19H,13H2,1-3H3;1H
